US07691902B2
1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide (0.10 mmol), N,N-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide (0.11 mmol), K2CO3 (240 μL, 1M), Pd-FibreCat (7 mg), and DMF (1 mL) were combined. The mixture was heated at 150° C. for 5 min (5 min ramp time) in a microwave reactor. After cooling, the mixture was filtered and purified by prep-HPLC to provide 4-[5-(1-benzo[1,3]dioxol-5-ylcyclopropyl)carbonylamino-2-methyl-phenyl]-N,N-dimethyl-benzamide. ESI-MS m/z calc. 442.2, found 443.5 (M+1)+; Retention time 3.12 minutes. 1H NMR (400 MHz, DMSO-d6) δ 1.02-1.08 (m, 2H), 1.37-1.44 (m, 2H), 2.17 (s, 3H), 2.96 (s, 3H), 3.00 (s, 3H), 6.01 (s, 2H), 6.87-6.93 (m, 2H), 6.98 (d, J=1.3 Hz, 1H), 7.19 (d, J=8.4 Hz, 1H), 7.34-7.37 (m, 2H), 7.40-7.52 (m, 4H), 8.75 (s, 1H).

reactant | 1-(Benzo[d][1,3]dioxol-5-yl)-N-(3-bromo-4-methylphenyl)cyclopropanecarboxamide | 0.10 mmol | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC2=CC(=C(C=C2)C)Br | C18H16BrNO3
reactant | N,N-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzamide | 0.11 mmol | CN(C(C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C)=O)C | C15H22BNO3
reactant | K2CO3 | 1M, 240 μL | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-[5-(1-benzo[1,3]dioxol-5-ylcyclopropyl)carbonylamino-2-methyl-phenyl]-N,N-dimethyl-benzamide | O1COC2=C1C=CC(=C2)C2(CC2)C(=O)NC=2C=CC(=C(C2)C2=CC=C(C(=O)N(C)C)C=C2)C | C27H26N2O4
